US05700836
1.02 g of ethyl (2E,4E,6E)3-methyl-7-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-hepta-2,4,6-trienoate were placed in 8 ml of abs. THF/ethanol (1/1) and treated under argon with 3.9 ml of 3N NaOH. The mixture was stirred at room temperature for 2 days and at 400 for 3 h. Then, the mixture was poured on to ice/HCl, extracted with diethyl ether, washed with water, dried and evaporated. Crystallization from diethyl ether yielded 644 mg of (2E,4E,6E)-3-methyl-7-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-hepta-2,4,6-trienoic acid as yellow crystals of m.p. 208°-209°.

reactant | ethyl (2E,4E,6E)3-methyl-7-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-hepta-2,4,6-trienoate | 1.02 g | C\C(=C/C(=O)OCC)\C=C\C=C\C1=CC=2C(CCC(C2C=C1OCC#CCC)(C)C)(C)C | C29H38O3
reactant | NaOH | 3N, 3.9 ml | [OH-].[Na+]
solvent | THF ethanol | C1CCOC1.C(C)O
product | (2E,4E,6E)-3-methyl-7-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-hepta-2,4,6-trienoic acid | 644 mg | C\C(=C/C(=O)O)\C=C\C=C\C1=CC=2C(CCC(C2C=C1OCC#CCC)(C)C)(C)C | C27H34O3
